US05382600
a) N-Methyl-N-tert.butyl-3-(5-chloro-2-hydroxyphenyl)-3-phenylpropylamine
A solution of chlorine (7,1 g, 0,10 mol) in acetic acid (500 ml) is added dropwise to a stirred solution of N-methyl-N-tert.butyl-3-(2-hydroxyphenyl)-3 -phenylpropylamine (29.7 g. 0.10 mol) in acetic acid (200 ml) with stirring. After 2 h the solvent is distilled off under reduced pressure and the crude hydrochloride left is recrystallized from 2-propanol. Melting point 260° C.

reactant | chlorine | 0,10 mol, 7,1 g | ClCl | Cl2
reactant | N-methyl-N-tert.butyl-3-(2-hydroxyphenyl)-3 -phenylpropylamine | 0.10 mol, 29.7 g | CN(C(C)(C)C)CCC(C1=CC=CC=C1)C1=C(C=CC=C1)O | C20H27NO
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | N-Methyl-N-tert.butyl-3-(5-chloro-2-hydroxyphenyl)-3-phenylpropylamine | CN(C(C)(C)C)CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)O | C20H26ClNO
